US08097617B2
Step 15.1: 2-Amino-5-bromo-isonicotinic acid methyl ester.
A solution of 2-amino-isonicotinic acid methyl ester (5.58 g, 36.7 mmol) in DMF (56 mL) was cooled to −18° C. (ice/MeOH bath), treated with NBS (7.21 g, 38.5 mmol), and stirred at −18° C. for 1 h. The reaction mixture was diluted in AcOEt (500 mL) and washed with water (2×250 mL). The organic layer was dried over Na2SO4, filtered and evaporated to yield the crude title compound (3.0 g, 13.0 mmol, 35%) as a yellow solid, which was used in the next step without further purification. MS: 231 [M+1]+; HPLC: AtRet=0.70.

reactant | 2-amino-isonicotinic acid methyl ester | 36.7 mmol, 5.58 g | COC(C1=CC(=NC=C1)N)=O | C7H8N2O2
reactant | NBS | 38.5 mmol, 7.21 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 56 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | 500 mL | CCOC(=O)C | C4H8O2
product | 2-Amino-5-bromo-isonicotinic acid methyl ester | 13.0 mmol, 3.0 g, 35% | COC(C1=CC(=NC=C1Br)N)=O | C7H7BrN2O2
